US07884110B2
4-Chloro-N-[5-chloro-2-(9H-purine-6-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
Prepared from 256 mg (0.51 mmol) of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide, 191 mg (0.51 mmol) of 6-iodo-9-(2-trimethylsilanyl-ethoxymethyl)-9H-purine dissolved in 2 mL THF with 0.25 mL of 2 M isopropylmagnesium chloride solution in THF added. All of the resulting intermediate ketone was used in the second step with 1 mL methanol and 1 mL 6N hydrochloric acid mixture to give after purification 2.05 mg of the final product as a yellow solid.

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxy-methyl-amide | 0.51 mmol, 256 mg | CON(C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C | C17H16Cl2F3N3O5S
reactant | 6-iodo-9-(2-trimethylsilanyl-ethoxymethyl)-9H-purine | 0.51 mmol, 191 mg | IC1=C2N=CN(C2=NC=N1)COCC[Si](C)(C)C | C11H17IN4OSi
reactant | methanol | 1 mL | CO | CH4O
reactant | hydrochloric acid | 6N, 1 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | isopropylmagnesium chloride | 2 M, 0.25 mL | C(C)(C)[Mg]Cl
product | 4-Chloro-N-[5-chloro-2-(9H-purine-6-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C1=C2N=CNC2=NC=N1)C(F)(F)F | C18H9Cl2F3N6O3S
